US07432392B2
To a solution of 4′-trifluoromethylbiphenyl-2-carboxylic acid (4-benzyloxy-2-dimethylcarbamoyl-5-fluorophenyl)amide (1.48 g) in a mixed solvent of THF (10 mL) and methanol (10 mL) was added 7.5% palladium carbon (200 mg). The mixture was stirred at room temperature for 3 hours under hydrogen atmosphere. The reaction solution was filtered through a celite to remove the catalyst, and the filtrate was concentrated to give 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-5-fluoro-4-hydroxyphenyl)amide (1.09 g).

reactant | 4′-trifluoromethylbiphenyl-2-carboxylic acid (4-benzyloxy-2-dimethylcarbamoyl-5-fluorophenyl)amide | 1.48 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1F)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C(N(C)C)=O | C30H24F4N2O3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | palladium carbon | 200 mg | [C].[Pd]
solvent | methanol | 10 mL | CO | CH4O
product | 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-5-fluoro-4-hydroxyphenyl)amide | 1.09 g | CN(C(=O)C1=C(C=C(C(=C1)O)F)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C23H18F4N2O3
